US07582629B2
tert-Butyl {4-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]phenyl}carbamate
A mixture of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.200 g, 0.667 mmol) and tert-butyl (4-aminophenyl)carbamate (0.278 g, 1.344 mmol) in DMF (2 ml) was heated in a microwave reactor at 120° C. for 30 mins. EtOAc was added, and the mixture was washed with brine and evaporated. The residue was triturated in MeOH, the solvent was decanted and the residue was purified by silica gel column chromatography using 15-65% EtOAc in petroleum ether 40-60° C. as eluent, to give the title compound (0.147 g, 47%) as a solid. 1H NMR (500 MHz, d6-DMSO): δ 9.18 (s, 1H), 9.16 (s, 1H), 7.22 (dt, 1H), 7.18 (dt, 2H), 7.08-7.00 (m, 4H), 6.64 (d, 2H), 1.65 (s, 9H), 1.44 (s, 9H); 13C NMR (d6-DMSO): δ 160.3, 153.0, 136.8, 132.3, 131.9, 129.6, 129.3, 128.6, 125.9, 123.2, 117.9, 109.2, 79.8, 61.4, 28.8, 27.9; Mass Spectrum: M−H+ 470.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.667 mmol, 0.200 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | tert-butyl (4-aminophenyl)carbamate | 1.344 mmol, 0.278 g | NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-Butyl {4-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]phenyl}carbamate | 0.147 g, 47% | C(C)(C)(C)N1S(C(=C(C1=O)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O)C1=CC=CC=C1)(=O)=O | C24H29N3O5S
